US05550117
6-Cyano-2,4-dimethyl-11-ethyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine
Trifluorornethanesulfonic anhydride (0.24 mL, 14 mmol) was added to a solution of 0.314 g (1.2 mmol) 5,11-dihydro-2,4-dimethyl-11-ethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepine-6-one in 15 mL of methylene chloride containing 0.25 mL (14 mmol) of diisopropylethylamine. The resulting mixture was refluxed under Ar for 3 hr. Ethyl acetate (~200 mL) was then added and the solution was washed three times with water and four times with brine. After drying (magnesium sulfate), the solution was concentrated in vacuo and the residue dried under high vacuum for 2 hr. The residue was dissolved in 20 mL of methylene chloride, and 0.23 g (14 mol) of tetraethylammonium cyanide was added. After stirring the resulting solution overnight at room temperature, the reaction mixture was concentrated in vacuo. The residue was dissolved in 100 mL of ethyl acetate, and the solution washed with water and brine, and then dried (magnesium sulfate). The solution was concentrated in vacuo and the residue was chromatographed over silica (eluted with 5% ethyl acetate/hexane). The resulting solid was crystallized from heptane to provide 33 mg of the title compound as red crystals, m.p. 154°-155° C.

reactant | Trifluorornethanesulfonic anhydride | 14 mmol, 0.24 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5,11-dihydro-2,4-dimethyl-11-ethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepine-6-one | 1.2 mmol, 0.314 g | CC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C15H16N4O
reactant | methylene chloride | 14 mmol, 15 mL | C(Cl)Cl | CH2Cl2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | tetraethylammonium cyanide | 14 mol, 0.23 g | [C-]#N.C(C)[N+](CC)(CC)CC
solvent | Ethyl acetate | ~200 mL | C(C)(=O)OCC | C4H8O2
product | 6-Cyano-2,4-dimethyl-11-ethyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 33 mg | C(#N)C=1C2=C(N(C3=C(N1)C(=CC(=N3)C)C)CC)N=CC=C2 | C16H15N5
